US05246929
A mixture of 3-(3-trifluoromethylphenyl)-1H-naphtho[2,1-b][1,4]thiazin-2(3H)-one (18.0 g), potassium carbonate (24.2 g), 3-(dimethylamino)propyl chloride hydrochloride (9.5 g), acetone (400 ml) and water (4 ml) is refluxed for 48 hours. The insoluble materials are filtered off and acetone is distilled off, and to the residue are added ethanol (200 ml) and 10 % hydrochloric acid (100 ml), and the mixture is refluxed for one hour. After ethanol is distilled off and the insoluble materials are filtered off, the resulting mixture is made alkaline with sodium hydrogen carbonate and extracted with ethyl acetate. The extract is distilled to remove the solvent to give 1-[3-(dimethylamino)-propyl]-3-(3-trifluoromethylphenyl)-1H-naphtho[2,1-b][1,4]-thiazin-2(3H)-one as oil.

reactant | 3-(3-trifluoromethylphenyl)-1H-naphtho[2,1-b][1,4]thiazin-2(3H)-one | 18.0 g | FC(C=1C=C(C=CC1)C1C(NC2=C(S1)C=CC1=CC=CC=C12)=O)(F)F | C19H12F3NOS
reactant | potassium carbonate | 24.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(dimethylamino)propyl chloride hydrochloride | 9.5 g | Cl.CN(CCCCl)C
reactant | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 4 ml | O | H2O
product | 1-[3-(dimethylamino)-propyl]-3-(3-trifluoromethylphenyl)-1H-naphtho[2,1-b][1,4]-thiazin-2(3H)-one | CN(CCCN1C2=C(SC(C1=O)C1=CC(=CC=C1)C(F)(F)F)C=CC1=CC=CC=C12)C | C24H23F3N2OS
